US05134128
A mixture of 0.3 g. of 4-(1-hydroxytridecyl)-5-methoxy-2(5H)-furanone and 0.5 ml of carbon tetrachloride is cooled to 0° and 0.55 ml of a 3.1M solution of bromine in carbon tetrachloride is added dropwise over 15 minutes. Two drops of glacial acetic acid are added and the mixture is allowed to warm to room temperature. The reaction is monitored by TLC. After one hour, the mixture is cooled to 0° and 25 ml of pyridine is added over 5 minutes. The mixture is stirred for one hour, filtered to remove pyridine hydrobromide and solvent removed to give a residue which is purified by flash chromatography to give 3-bromo-4-(1-hydroxytridecyl)-5-methoxy-2(5H)-furanone.

reactant | 4-(1-hydroxytridecyl)-5-methoxy-2(5H)-furanone | OC(CCCCCCCCCCCC)C1=CC(OC1OC)=O | C18H32O4
reactant | bromine | BrBr | Br2
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | acetic acid | Two drops | C(C)(=O)O | C2H4O2
solvent | carbon tetrachloride | 0.5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromo-4-(1-hydroxytridecyl)-5-methoxy-2(5H)-furanone | BrC=1C(OC(C1C(CCCCCCCCCCCC)O)OC)=O | C18H31BrO4
